US07459472B2
A solution of biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid methyl ester (0.170 g, 0.308 mmol) in THF:MeOH (4:1, 5 mL) was treated with LiOH (0.064 g, 1.54 mmol) in 1.5 mL of water by the general procedure C to give 0.140 g of pure 3-biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid as a white solid. LCMS: 539 (M+2)+

reactant | biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid methyl ester | 0.308 mmol, 0.170 g | COC([C@@](C)(NC(=O)C1=NC=C(N=C1)COC1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H24F3N3O5
reactant | LiOH | 1.54 mmol, 0.064 g | [Li+].[OH-]
reactant | THF MeOH | 5 mL | C1CCOC1.CO
solvent | water | 1.5 mL | O | H2O
product | 3-biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid | 0.140 g | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C1=NC=C(N=C1)COC1=CC(=CC=C1)OC(F)(F)F)C1=CC=CC=C1 | C28H22F3N3O5
